US08877751B2
Preparation of {3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]phenyl}methanol
138 ml of a 1 M solution of diisobutylaluminium hydride in THF are added dropwise with stirring to a solution, kept under nitrogen, of 9.5 g (27.5 mmol) of methyl 3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzoate in 180 ml of THF. After the mixture has been stirred at room temperature for 1 hour, 100 ml of a saturated aqueous ammonium chloride solution are added dropwise. The precipitate formed is filtered off with suction and washed a number of times with dichloromethane. The filtrate is dried over sodium sulfate and evaporated. The residue is recrystallised from a mixture of isopropanol/ether: {3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]phenyl}-methanol as yellow crystals; m.p. 101-102°; ESI 316 (M+H); HPLC: Rt.=1.67 min (method A).

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzoate | 27.5 mmol, 9.5 g | N1(CCOCC1)CCOC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1 | C18H21N3O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | {3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]phenyl}methanol | N1(CCOCC1)CCOC=1C=NC(=NC1)C=1C=C(C=CC1)CO | C17H21N3O3
